US06545017B1
diethyl {[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]amino}carbonylamidophosphate
Using the method of Examples 118-133, diethoxyphosphinyl isocyanate was reacted with 1-(2-aminoethyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 399.1926.

reactant | diethoxyphosphinyl isocyanate | C(C)OP(=O)(OCC)N=C=O | C5H10NO4P
reactant | 1-(2-aminoethyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C11H17N5
product | diethyl {[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]amino}carbonylamidophosphate | NC1=NC(=C(C2=C1N=C(N2CCNC(=O)NP(=O)(OCC)OCC)C)C)C | C16H27N6O4P
